* C:\users\maxence\Desktop\dev\hardware\TMS\charge.asc
L1 N001 N003 100µH
L2 N003 N007 100µH
R2 N004 0 10k
R3 0 N006 10k
R4 N006 N003 470
D1 0 N006 BZX84B11VLY
D2 0 N004 BZX84B11VLY
M1 N001 N004 0 0 IRFP250N
M2 N007 N006 0 0 IRFP250N
D3 N006 N001 1N4148
D4 N004 N007 1N4148
C1 N001 N007 3µF
L3 N001 N007 5µH
V1 N003 0 24
L4 0 N002 5000µH
R5 N004 N003 470
D7 N002 N005 1N4148
C2 Vcap+ Vcap- 230µF
R1 Vcap+ N005 8000
D5 0 N005 1N4148
D6 Vcap- 0 1N4148
D8 Vcap- N002 1N4148
.model D D
.lib C:\users\maxence\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\maxence\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10 0 startup uic
.model sw SW(Ron=470, Roff=1G, Vt=0.5)
K L3 L4 1
.backanno
.end
