* C:\users\maxence\Desktop\dev\hardware\TMS\gate_driver.asc
V1 N003 0 PULSE(0 15 1u 35n 35n 50u)
L1 N004 0 450µH
L2 N005 aux 450µH
D1 N005 N006 D
D2 aux gate D
R1 gate N006 10
R2 N004 N003 2.5
Q1 N002 gate aux 0 NPN
Q2 N001 N002 gate 0 PNP
R3 N001 aux 1
.model D D
.lib C:\users\maxence\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\maxence\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 50u 0 startup uic
K L1 L2 0.999
.backanno
.end
